US05559105
c) 3,3-Diphenyl-2-(3,4-methylenedioxybenzyl)prop-2-enoic acid
Methyl 3,3-diphenyl-2-(3,4-methylenedioxybenzyl)prop-2-enoate (0.05 g, 0.13 mmol) was dissolved in EtOH (2 ml) and 3M aqueous NaOH added (2 mi, 6 mmol). After stirring at 80° C. for 15 h the EtOH was removed in vacuo and the residue partitioned between EtOAc and H2O. The aqueous layer was acidified to pH 2 with 1-M-aqueous HCl and extracted with EtOAc (3X). The combined organic extract was washed with brine, dried (MgSO4 anhydrous), filtered and evaporated to give a colorless solid. Recrystallization from EtOAc/hexane gave the title compound as a colorless solid (0.037 g, 77%).

reactant | Methyl 3,3-diphenyl-2-(3,4-methylenedioxybenzyl)prop-2-enoate | 0.13 mmol, 0.05 g | C1(=CC=CC=C1)C(=C(C(=O)OC)CC1=CC2=C(C=C1)OCO2)C2=CC=CC=C2 | C24H20O4
reactant | NaOH | 3M | [OH-].[Na+]
solvent | EtOH | 2 ml | CCO | C2H6O
product | 3,3-Diphenyl-2-(3,4-methylenedioxybenzyl)prop-2-enoic acid | 0.037 g, 77% | C1(=CC=CC=C1)C(=C(C(=O)O)CC1=CC2=C(C=C1)OCO2)C2=CC=CC=C2 | C23H18O4
